US04284782
69.3 parts of cyanoacetic acid methyl ester are added at 20° to 30° C. to 117.5 parts of n-butylamine, while stirring, the mixture is stirred for approx. 12 hours, 150 parts of water and 93.4 parts of acetoacetic acid methyl ester are added and the mixture is heated at 120° C. for 6 hours in an autoclave, a pressure of 13 bars being generated. The reaction solution is then run into a mixture of 400 parts of water and 75 parts of 61% strength sulphuric acid and the precipitate which has been formed is filtered off, rinsed with water and dried, 123 parts (85% of theory) of 1-butyl-3-cyano-4-methyl-6-hydroxypyrid-2-one with a melting point of 220° C. are obtained.

reactant | cyanoacetic acid methyl ester | COC(CC#N)=O | C4H5NO2
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | acetoacetic acid methyl ester | COC(CC(=O)C)=O | C5H8O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 1-butyl-3-cyano-4-methyl-6-hydroxypyrid-2-one | 85% | C(CCC)N1C(C(=C(C=C1O)C)C#N)=O | C11H14N2O2
